US06528504B2
(R)-5-[1-(4-Chlorophenethyl)pyrrolidine-3-yl]-5,11-dihydrodibenzo [b,e][1,4]oxazepine Hydrochloride
2.0 ml of 2 M hydrochloric acid/ethyl ether was added to a solution of (R)-5-[1-(4-chlorophenethyl)pyrrolidine-3-yl]-5,11-dihydro-dibenzo[b,e][1,4]oxazepine (44 mg, 0.11 mmol) in dichloromethane, and they were stirred for 1 hour. The solvent was evaporated under reduced pressure to obtain the title compound in the form of a light yellow solid (42 mg, 87%).

reactant | hydrochloric acid ethyl ether | 2 M, 2.0 ml | Cl.C(C)OCC
reactant | (R)-5-[1-(4-chlorophenethyl)pyrrolidine-3-yl]-5,11-dihydro-dibenzo[b,e][1,4]oxazepine | 0.11 mmol, 44 mg | ClC1=CC=C(CCN2C[C@@H](CC2)N2C3=C(OCC4=C2C=CC=C4)C=CC=C3)C=C1 | C25H25ClN2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (R)-5-[1-(4-Chlorophenethyl)pyrrolidine-3-yl]-5,11-dihydrodibenzo [b,e][1,4]oxazepine Hydrochloride | Cl.ClC1=CC=C(CCN2C[C@@H](CC2)N2C3=C(OCC4=C2C=CC=C4)C=CC=C3)C=C1 | InChI=1S/C25H25ClN2O.ClH/c26-21-11-9-19(10-12-21)13-15-27-16-14-22(17-27)28-23-6-2-1-5-20(23)18-29-25-8-4-3-7-24(25)28;/h1-12,22H,13-18H2;1H/t22-;/m1./s1
